US07781478B2
To a suspension of NaH (0.6 g, 2 eq.) in DMF (7 mL) is added a solution of 6-methoxy-2-methyl-1H-indole-3-carbonitrile (1.3 g, 7.0 mmol) in DMF (8 mL) followed by ethyl iodide (1.2 mL, 2 eq.) at 0° C. After stirring for 1 h, the mixture is poured into ice water and then extracted with CH2Cl2. The organic layer is washed with brine and dried with Na2SO4. The solvent is evaporated under vacuum and purified with flash column chromatography on silica gel using EtOAc/petroleum ether (1/5) as eluent to yield 92% of 1-ethyl-6-methoxy-2-methyl-1H-indole-3-carbonitrile.

reactant | NaH | 0.6 g, 2 eq. | [H-].[Na+]
reactant | 6-methoxy-2-methyl-1H-indole-3-carbonitrile | 7.0 mmol, 1.3 g | COC1=CC=C2C(=C(NC2=C1)C)C#N | C11H10N2O
reactant | ethyl iodide | 1.2 mL, 2 eq. | C(C)I | C2H5I
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-6-methoxy-2-methyl-1H-indole-3-carbonitrile | 92% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C | C13H14N2O
